US07414050B2
b) 2-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile
To a solution of 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile (0.70 g, 3.1 mmol) (as prepared in the previous step) in CCl4 (10 mL) was added N-bromosuccinimide (NBS) (0.61 g, 3.4 mmol) and azobis(isobutyronitrile) (AIBN, catalytic), and the mixture was heated at 60° C. for 4 h. The reaction was diluted with EtOAc (30 mL), washed with NaHCO3 (2×30 mL), brine (30 mL), the organic layer was dried over Na2SO4 and then concentrated. The title compound was eluted from a 20-g SPE cartridge (silica) with 30% EtOAc/hexane to give 0.73 g (77%) of a yellow solid: Mass spectrum (CI (CH4), m/z) Calcd. for C10H16BrN3OSi, 302.0/304.0 (M+H). found 302.1/304.1.

reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile | 3.1 mmol, 0.70 g | C[Si](CCOCN1C=NC(=C1)C#N)(C)C | C10H17N3OSi
reactant | N-bromosuccinimide | 3.4 mmol, 0.61 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobis(isobutyronitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 2-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile | 0.73 g, 77% | BrC=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C10H16BrN3OSi
